US07491821B2
(R)-(1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester (1.85 g, 10.7 mmole) and acetyl piperazine (1.53 g, 12 mmole) were combined in dichloroethane (125 mL). NaBH(OAc)3 (4.53 g. 21 mmole) was added. The resultant reaction solution was stirred at room temperature for 20 h. An equal volume of saturated NaHCO3 was added. The aqueous phase was extracted 3 times with CH2Cl2. The combined organic extracts were washed with saturated NaCl, dried over Na2SO4 and concentrated under vacuum. Purification by silica chromatography (5% methanol in CH2Cl2 provided (R)-[2-(4-acetylpiperazin-1-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (Intermediate XXIXa, 2.6 g)

reactant | (R)-(1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 10.7 mmole, 1.85 g | C(C)(C)(C)OC(N[C@@H](C=O)C)=O | C8H15NO3
reactant | acetyl piperazine | 12 mmole, 1.53 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | NaBH(OAc)3 | 21 mmole, 4.53 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 125 mL | ClC(C)Cl | C2H4Cl2
product | (R)-[2-(4-acetylpiperazin-1-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(N[C@@H](CN1CCN(CC1)C(C)=O)C)=O | C14H27N3O3
